* Z:\mnt\design.r\spice\examples\3762.asc
R1 N022 0 39.2K
C1 N024 0 10n
V1 IN 0 pwl(0 0 2m 12)
R2 IN N001 6m
R3 IN N004 576K
R4 N004 0 412K
C2 N015 0 10µ
C3 N005 N002 0.1µ
L1 N001 N002 22µ
R5 OUT N012 125m
D1 N019 0 LUW-W5AP N=6
R6 N007 N006 100K
R7 OUT N008 1Meg
R8 N008 0 36.5K
C4 N013 0 10n
C5 N023 0 6.8n
L2 N017 N018 47µ
C6 N018 N021 .1µ
XU1 N013 N011 N022 N023 N024 N006 N007 N010 N025 N008 0 N014 N012 OUT N009 N002 N005 N003 N001 IN IN N018 N021 N017 N015 N004 N020 N016 LT3762
C7 N025 0 10n
M§Q1 N002 N003 0 0 BSC340N08NS3
M§Q2 N019 N014 N012 N012 Si7113DN
M§Q3 OUT N009 N002 N002 BSC340N08NS3
V2 N011 0 2.5
R9 N016 N015 100K
R10 N020 N015 100K
C8 OUT 0 4.7µ x4
R11 N010 N006 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
* 200kHz
.lib LT3762.sub
.backanno
.end
